US09388189B2
(S)-tert-Butyl (1-(5-((3-fluoro-4-methoxyphenyl)thio)-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)carbamate
(S)-tert-Butyl (1-(5-iodo-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)carbamate (286 mg, 0.60 mmol) was treated with 3-fluoro-4-methoxybenzenethiol (141 mg, 0.89 mmol), potassium carbonate (123 mg, 0.89 mmol) and copper(I) iodide (170 mg, 0.89 mmol) according to the method described in Preparation 44. The crude was purified using SP1® Purification System (0%-25%, hexane-ethyl acetate) to give 226 mg (71% yield) to the title compound as an oil.

reactant | (S)-tert-Butyl (1-(5-iodo-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)carbamate | 0.60 mmol, 286 mg | IC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC(OC(C)(C)C)=O | C19H21IN4O3
reactant | 3-fluoro-4-methoxybenzenethiol | 0.89 mmol, 141 mg | FC=1C=C(C=CC1OC)S | C7H7FOS
reactant | potassium carbonate | 0.89 mmol, 123 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | copper(I) iodide | 0.89 mmol, 170 mg | [Cu]I
product | (S)-tert-Butyl (1-(5-((3-fluoro-4-methoxyphenyl)thio)-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)carbamate | 71% yield | FC=1C=C(C=CC1OC)SC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC(OC(C)(C)C)=O | C26H27FN4O4S
